US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-nitrobenzenesulfonamide hydrochloride (Scheme 3)
The compound was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide and 4-nitrobenzenesulfonylchloride (101 mg, 0.455 mmol) according to general method 3 to give before Boc-deprotection 118 mg of a purple solid. M+1 470.1 Calcd 470.11.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}methanesulfonamide | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C17H28N4O4S
reactant | 4-nitrobenzenesulfonylchloride | 0.455 mmol, 101 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-nitrobenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])NS(=O)(=O)C | InChI=1S/C18H23N5O6S2.ClH/c1-30(26,27)20-18-13-15(22-11-2-9-19-10-12-22)5-8-17(18)21-31(28,29)16-6-3-14(4-7-16)23(24)25;/h3-8,13,19-21H,2,9-12H2,1H3;1H
